US07119221B2
Under a N2 atmosphere at −60° C., a solution of tert-butyl cyclopropanecarboxylate (80.05 g, 0.507 mol) and 1,4-dibromobutane (219.3 g, 1.01 mol) in dry THF (800 mL) was added drop wise to a solution of LDA (2 M in THF/heptane/ethylbenzene, 380 mL, 0.76 mol) in 1.5 h. Stirring was continued for 5 h, during which the reaction mixture was allowed to slowly reach rt. After that, the reaction mixture was poured into saturated aqueous NH4Cl (1 L). The organic layer was separated and concentrated in vacuo to a smaller volume. The aqueous layer was extracted with Et2O (3×200 mL). The combined organic layers were washed with saturated aqueous NH4Cl (2×400 mL) and brine (400 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was purified by fractional distillation under reduced pressure to give tert-Butyl 1-(4-bromo-butyl)-cyclopropanecarboxylate (51.4 g, 94% pure by GC, 34%) as a slightly yellow oil. bp: T=93–96° C. (p=0.075–0.087 Torr). 1H NMR (CDCl3): δ=3.40 (t, J=6.8 Hz, 2H), 1.85 (quintet, J=7.1 Hz, 2H), 1.65–1.46 (m, 4H), 1.43 (s, 9H), 1.12 (q, J=3.5 Hz, 2H), 0.60 (q, J=3.5 Hz, 2H). 13C NMR (CDCl3): δ=174.0, 79.8, 33.6, 33.2, 32.8, 27.9 (3×), 26.3, 23.9, 15.1 (2×). HRMS calcd for C12H21BrO2 (MH+): 277.0803, found: 277.0807.

reactant | tert-butyl cyclopropanecarboxylate | 0.507 mol, 80.05 g | C1(CC1)C(=O)OC(C)(C)C | C8H14O2
reactant | 1,4-dibromobutane | 1.01 mol, 219.3 g | BrCCCCBr | C4H8Br2
reactant | LDA | 0.76 mol, 2 M, 380 mL | [Li+].CC(C)[N-]C(C)C
reactant | NH4Cl | 1 L | [NH4+].[Cl-]
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-(4-bromo-butyl)-cyclopropanecarboxylate | 51.4 g | BrCCCCC1(CC1)C(=O)OC(C)(C)C | C12H21BrO2
